Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lamictal / methimazole
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
==============
___ 10:15AM   PLT COUNT-107*
___ 10:15AM   AbsNeut-1.04*
___ 10:15AM   WBC-2.0* RBC-4.62 HGB-13.8 HCT-42.8 MCV-93 
MCH-29.9 MCHC-32.2 RDW-13.7 RDWSD-46.2
___ 10:15AM   CEA-3.6 AFP-6.1
___ 10:15AM   ALBUMIN-4.1 CALCIUM-9.3 PHOSPHATE-2.6* 
MAGNESIUM-1.7
___ 10:15AM   ALT(SGPT)-21 AST(SGOT)-32 ALK PHOS-104 TOT 
BILI-0.9
___ 10:15AM   UREA N-8 CREAT-0.5 SODIUM-139 POTASSIUM-3.1* 
CHLORIDE-102
___ 03:50PM   ___ PTT-34.8 ___
___ 03:50PM   TSH-0.81
___ 03:50PM   cTropnT-<0.01

DISCHARGE LABS:
==============
___ 06:56AM BLOOD Calcium-9.8 Phos-3.4 Mg-1.7
___ 06:18AM BLOOD ALT-20 AST-35 LD(LDH)-243 AlkPhos-93 
TotBili-1.2
___ 06:56AM BLOOD Glucose-92 UreaN-7 Creat-0.5 Na-140 K-4.2 
Cl-100 HCO3-26 AnGap-14
___ 06:56AM BLOOD Neuts-43.9 ___ Monos-24.9* 
Eos-3.4 Baso-1.0 AbsNeut-0.90* AbsLymp-0.55* AbsMono-0.51 
AbsEos-0.07 AbsBaso-0.02
___ 06:56AM BLOOD WBC-2.1* RBC-4.53 Hgb-13.4 Hct-42.3 
MCV-93 MCH-29.6 MCHC-31.7* RDW-13.8 RDWSD-47.0* Plt Ct-90*

MICRO:
======
___ 4:13 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING:
=======
___ CXR
IMPRESSION: No acute intrathoracic process.

___ NCHCT
IMPRESSION:
1. No acute intracranial process.  Specifically, no evidence of 
intracranial hemorrhage or acute large territorial infarction.
2. Status post right pterional craniotomy with expected 
postsurgical changes.  Area of encephalomalacia of the right 
frontotemporal lobe may be sequela of prior intracranial 
hemorrhage.  Correlation with history is recommended.
3. Chronic microangiopathic and involutional changes.

DISCHARGE EXAM:
===============
Vitals:  24 HR Data (last updated ___ @ 748)
    Temp: 98.0 (Tm 98.3), BP: 151/80 (124-181/70-96), HR: 62
(53-70), RR: 18 (___), O2 sat: 98% (95-98), O2 delivery: Ra    


GENERAL: Sleeping comfortably in bed, NAD
HEENT: Clear OP without lesions or thrush
EYES: PERRL, anicteric
NECK: supple, no JVD
RESP: No increased WOB, no wheezing, rhonchi or crackles
___: bradycardic, regular rhythm, no murmurs
GI: soft, TTP over RUQ and LUQ, no rebound or guarding
EXT: no edema, warm
SKIN: dry, no obvious rashes
NEURO: alert, fluent speech. no focal neurologic deficits 
ACCESS: POC, dressing C/D/I

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
======================
___ yo F with PMH of hyperthyroidism on PTU, meningioma s/p
resection, depression, CAD, HCV cirrhosis s/p Harvoni, suspected
HCC s/p FOLFOX with progression, now recently started on
lenvatinib who presents for headache and elevated BP from clinic
c/f hypertensive urgency/emergency in setting of recent
lenvatinib initiation

TRANSITIONAL ISSUES:
====================
[] HTN meds on discharge: lisinopril 40mg QD, amlodipine 10mg QD
[] Consider dose reduction of lenvatinib (previously was 8mg qd) 
in setting of grade 3 neutropenia. 
[] ANC on day of discharge: 900

ACTIVE ISSUES:
==============
#Hypertensive emergency
Patient with initial symptoms concerning for hypertensive
encephalopathy. Patient's symptoms improved with BP lowering in
ED. Of note, patient with BP as low as 120s systolic after
clonidine administration in ED, though seems to have stabilized
slightly after additional IV medications. BP on admission SBP
180s. BP was lowered slowly as to not precipitate hypoperfusion. 
Etiology likely recent lenvatinib initiation vs noncompliance in 
the setting of encephalopathy at home. TSH was normal. BP meds 
on discharge were amlodipine 10mg qd and lisinopril 40mg qd. 
Patient will have ___ on discharge for BP monitoring. 

#Carcinoma of unknown primary, presumed HCC
#Cancer related pain
#Nausea/Vomiting
Patient with progression of disease on FOLFOX followed by ___ CI
with XRT. She was started on lenvatinib to delay progression of
disease and minimize tumor burden. Patient now seems to have
adverse reaction to lenvatinib with hypertensive emergency. 
Lenvatinib was given for 2 days and the again discontinued iso 
neutropenia. Continued home Zofran, Compazine and dronabinol for 
nausea and oxycodone 5mg TID PRN and MS contin 15mg BID for 
pain. She was seen by ___ while inpatient who recommended home 
with ___ services.

#Leukopenia
#Thrombocytopenia
#Neutropenia 
In setting of recent lenvatinib initiation. Lenvatinib was 
initially restarted but then held iso grade 3 neutropenia. CBC 
with diff was monitored daily. ___ on day of discharge was 900.

#Constipation
Continued home Colace and miralax with senna and Bisacodyl PRNs.

#Severe malnutrition
#Hypokalemia
#Hypomagnesemia
Nutrition consulted. Received multivitamin and PRN electrolyte 
repletion.

#Hyperthyroidism
Continued home PTU. TSH wnl.

#Osteoporosis
Continued home alendronate ___, vitamin D and calcium.

#CAD
#Bradycardia
S/p cath in ___. H/o bradycardia to 40-50s per past EKG review. 
ASA continued qd. 

CORE MEASURES:  
#HCP/Contact: ___, daughter, ___
#Code: Full, presumed

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Alendronate Sodium 70 mg PO QTUES 
3. Lisinopril 20 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
7. Aspirin 81 mg PO DAILY 
8. Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
9. Propylthiouracil 50 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
11. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
12. Calcium Carbonate 1000 mg PO DAILY 
13. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 
14. Morphine SR (MS ___ 15 mg PO Q12H 
15. Lidocaine-Prilocaine 1 Appl TP ASDIR 
16. lenvatinib 8 mg/day (4 mg x 2) oral DAILY 
17. Dronabinol 2.5 mg PO TID:PRN nausea 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Lisinopril 40 mg PO DAILY  
3.  Alendronate Sodium 70 mg PO QTUES  
4.  Aspirin 81 mg PO DAILY  
5.  Calcium Carbonate 1000 mg PO DAILY  
6.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line  

7.  Dronabinol 2.5 mg PO TID:PRN nausea  
8.  Lidocaine-Prilocaine 1 Appl TP ASDIR  
9.  Morphine SR (MS ___ 15 mg PO Q12H  
10.  Multivitamins 1 TAB PO DAILY  
11.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First 
Line  
12.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Severe 
 
13.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
14.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  
15.  Propylthiouracil 50 mg PO DAILY  
16.  Vitamin D 1000 UNIT PO DAILY  
17. HELD- lenvatinib 8 mg/day (4 mg x 2) oral DAILY  This 
medication was held. Do not restart lenvatinib until you see Dr 
___ in clinic

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
#Hypertensive emergency
#Carcinoma of unknown primary, presumed ___
#Neutropenia
#Thrombocytopenia
#Severe malnutrition
#Osteoporosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 
It was a pleasure caring for you at ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
- You were admitted for elevated blood pressures. 
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
- Your blood pressure was elevated likely from lenvatinib.
- Your blood pressure medications were increased for better 
blood pressure control.
- The lenvatinib was restarted but then held because your 
neutrophil (a type of white blood cell) count was low. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  
 
Sincerely,  
Your ___ Team

 
Followup Instructions:
___